US07582651B2
(3) 2-({[(4-Fluorophenyl)(phenyl)methyl]amino}methylene)butanedinitrile
To a solution of formyl succinonitrile potassium salt (7.26 g, 49.7 mmol) and 1-(4-fluorophenyl)-1-phenylmethaneamine (11.0 g, 54.7 mmol) in water-(20 ml) was added acetic acid (20 ml) at room temperature, the mixture was stirred at 100° C. for 30 minutes, and the solvent was distilled off under reduced pressure. The residue was poured into iced water, made basic by adding potassium carbonate and then extracted with ethyl acetate. The extract was washed with water, dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to give the objective product as a solid material.

reactant | formyl succinonitrile potassium salt | 49.7 mmol, 7.26 g | [K].C(=O)C(C#N)CC#N
reactant | 1-(4-fluorophenyl)-1-phenylmethaneamine | 54.7 mmol, 11.0 g | FC1=CC=C(C=C1)C(N)C1=CC=CC=C1 | C13H12FN
reactant | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | water- | 20 ml | O | H2O
product | 2-({[(4-Fluorophenyl)(phenyl)methyl]amino}methylene)butanedinitrile | FC1=CC=C(C=C1)C(C1=CC=CC=C1)NC=C(C#N)CC#N | C18H14FN3
